US06521666B1
NaBH4 (21 mg) was added to a solution of N-(2,6-dichlorobenzoyl)-4-(2-formylphenyl)-L-phenylalanine methyl ester (0.23 g) in MeOH (5 mL) and the mixture was stirred at room temperature for 3 h. The reaction was quenched with acetone and the mixture was evaporated. The residue was partitioned between EtOAc and water. The EtOAc layer was dried (MgSO4) and evaporated to yield N-(2,6-dichlorobenzoyl)-4-[2-(hydroxymethyl)phenyl]-L-phenylalanine methyl ester (0.24 g). ESMS: m/z 480 ([M+Na]+).

reactant | NaBH4 | 21 mg | [BH4-].[Na+]
reactant | N-(2,6-dichlorobenzoyl)-4-(2-formylphenyl)-L-phenylalanine methyl ester | 0.23 g | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C=O)=O | C24H19Cl2NO4
solvent | MeOH | 5 mL | CO | CH4O
product | N-(2,6-dichlorobenzoyl)-4-[2-(hydroxymethyl)phenyl]-L-phenylalanine methyl ester | 0.24 g | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)CO)=O | C24H21Cl2NO4
